US05952331
2-[6-Isopropyl-4-(4-fluoronaphth-1-yl)pyrimidin-2-ylamino]-propionic acid methyl ester was dissolved in ethanolic methyl amine solution (33%) and sonicated in a Branson ultrasonic bath for 3 hours. The solution was evaporated to dryness and taken up in methanol. Sufficient water was added to cause crystallization. The impure reaction product was further purified by silica gel column chromatography, eluting with methylene chloride/methanol and recrystallized from methanol/water to give 2-[6-isopropyl-4-(4-fluoronaphth-1-yl)pyrimidin-2-ylamino]-N-methyl-propionamide, m.p. 141.1-142.0° C.

reactant | 2-[6-Isopropyl-4-(4-fluoronaphth-1-yl)pyrimidin-2-ylamino]-propionic acid methyl ester | COC(C(C)NC1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)F)C(C)C)=O | C21H22FN3O2
reactant | methyl amine | CN | CH5N
product | 2-[6-isopropyl-4-(4-fluoronaphth-1-yl)pyrimidin-2-ylamino]-N-methyl-propionamide | C(C)(C)C1=CC(=NC(=N1)NC(C(=O)NC)C)C1=CC=C(C2=CC=CC=C12)F | C21H23FN4O
